US07468371B2
Phenol (5.0 g, 39.0 mmol), a 1M solution of 1,3-dicyclohexylcarbodiimide in dichloromethane (39.0 mL, 39.0 mmol) and 4-dimethylaminopyridine (0.5 g, 3.9 mmol) were added to a solution of thiophene-2-carboxylic acid (5.0 g, 39.0 mmol) in diethyl ether (400 mL) at about 0° C. The reaction mixture was stirred overnight while being allowed to warm to room temperature. The precipitate was collected by filtration and was washed with diethyl ether. The combined filtrates were washed successively with water, 5% aqueous acetic acid, water and brine, dried (MgSO4), filtered and concentrated under vacuum. The residue was purified by flash column chromatography on silica gel using hexane/ethyl acetate (5:1) as the mobile phase to provide phenyl thiophene-2-carboxylate. MS (DCI-NH3): m/z 222 (M+NH4)+.

reactant | Phenol | 39.0 mmol, 5.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | 1,3-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dichloromethane | 39.0 mmol, 39.0 mL | ClCCl | CH2Cl2
reactant | thiophene-2-carboxylic acid | 39.0 mmol, 5.0 g | S1C(=CC=C1)C(=O)O | C5H4O2S
catalyst | 4-dimethylaminopyridine | 3.9 mmol, 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
product | phenyl thiophene-2-carboxylate | S1C(=CC=C1)C(=O)OC1=CC=CC=C1 | C11H8O2S
